US04778790
1.3 g of t-butyl α-[6(R)-amino-5-oxo-2(S)-(2-thienyl)perhydro-1,4-thiazepin-4-yl]acetate was treated with 1.73 g of ethyl 2-bromo-9-t-butoxycarbonylaminononanoate prepared as described in Preparation 4) in a similar manner to that described in Example 4. The product was then subjected to column chromatography through silica gel using a mixture of benzene and ethyl acetate in the ratio 5:1 by volume as the eluent. 237 mg of t-butyl α-{6(R)-[8-t-butoxycarbonylamino-1(R)-ethoxycarbonyloctylamino]-5-oxo-2(S)-(2-thienyl)perhydro-1,4-thiazepin-4-yl}acetate was obtained as a syrup from the fractions eluted first.

reactant | t-butyl α-[6(R)-amino-5-oxo-2(S)-(2-thienyl)perhydro-1,4-thiazepin-4-yl]acetate | 1.3 g | N[C@@H]1C(N(C[C@H](SC1)C=1SC=CC1)CC(=O)OC(C)(C)C)=O | C15H22N2O3S2
reactant | ethyl 2-bromo-9-t-butoxycarbonylaminononanoate | 1.73 g | BrC(C(=O)OCC)CCCCCCCNC(=O)OC(C)(C)C | C16H30BrNO4
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl α-{6(R)-[8-t-butoxycarbonylamino-1(R)-ethoxycarbonyloctylamino]-5-oxo-2(S)-(2-thienyl)perhydro-1,4-thiazepin-4-yl}acetate | 237 mg | C(C)(C)(C)OC(=O)NCCCCCCC[C@H](C(=O)OCC)N[C@@H]1C(N(C[C@H](SC1)C=1SC=CC1)CC(=O)OC(C)(C)C)=O | C31H51N3O7S2
